US07183423B1
A mixture of 3 mmol of ethyl acrylate, 3 ml of 2-propanol, 0.6 mmol of N-hydroxyphthalimide, 0.015 mmol of cobalt(II) acetate, and 0.045 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 50° C. in an oxygen atmosphere (1 atm) for 5 hours. A gas chromatographic analysis of products in a reaction mixture revealed that ethyl 2,4-dihydroxy-4-methylpentanoate and α-hydroxy-γ,γ-dimethyl-γ-butyrolactone were formed in yields of 35% and 35%, respectively. The conversion rate from ethyl acrylate was 81%.

reactant | ethyl acrylate | 3 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | N-hydroxyphthalimide | 0.6 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
reactant | ethyl 2,4-dihydroxy-4-methylpentanoate | OC(C(=O)OCC)CC(C)(C)O | C8H16O4
catalyst | cobalt(II) acetate | 0.015 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | α-hydroxy-γ,γ-dimethyl-γ-butyrolactone | OC1C(=O)OC(C1)(C)C | C6H10O3
